US05973141
Methyl pheophorbide-a (100 mg, 0.17 mmol) was added to 2,4,6-collidine (25 mL, distilled) and the mixture was refluxed under argon with stirring. The reaction was monitored by HPLC (hexane-acetone, 90:10-mobile phase, LiChrospherCN-column, detection at 425 and 410 nm). After 20 min, the reaction was shown to have reached 100% completion by HPLC peak area. The solution was cooled to room temperature and solvent removed under reduced pressure. Hexane (10 mL) was added to the flask and the precipitated residue collected by filtration and rinsed with hexane to give methyl pyropheophorbide-a (70 mg, 77%).

reactant | Methyl pheophorbide-a | 0.17 mmol, 100 mg | CCC1=C(C2=CC3=C(C(=C(N3)C=C4N=C(C5=C6NC(=CC1=N2)C(=C6C(=O)C5C(=O)OC)C)C(C4C)CCC(=O)OC)C)C=C)C | C36H38N4O5
reactant | 2,4,6-collidine | 25 mL | N1=C(C=C(C=C1C)C)C | C8H11N
solvent | hexane acetone | CCCCCC.CC(=O)C
product | methyl pyropheophorbide-a | 70 mg, 77% | CCC1=C(C2=CC3=C(C(=C(N3)C=C4N=C(C5=C6NC(=CC1=N2)C(=C6C(=O)C5)C)[C@H]([C@@H]4C)CCC(=O)OC)C)C=C)C | C34H36N4O3
